US07902367B2
Step 78c) Methyl 3-[3-[(4′-chlorobiphenyl-4-yl)methoxymethyl]piperidin-1-yl]benzoate
Using 3-[(4′-chlorobiphenyl-4-yl)methoxymethyl]piperidine (237 mg, 0.750 mmol) and 3-(methoxycarbonyl)phenylboric acid (270 mg, 1.50 mmol), the same procedure was followed as in Example 2 to give 168 mg (50%) of the desired compound as a colorless oil.

reactant | 3-[(4′-chlorobiphenyl-4-yl)methoxymethyl]piperidine | 0.750 mmol, 237 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)COCC1CNCCC1 | C19H22ClNO
reactant | 3-(methoxycarbonyl)phenylboric acid | 1.50 mmol, 270 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[(4′-chlorobiphenyl-4-yl)methoxymethyl]piperidin-1-yl]benzoate | 168 mg, 50% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)COCC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C27H28ClNO3
